US07378420B2
C. Synthesis of (4-Chlorophenyl)(1-methylpiperidine-4-yl)methanol
To a solution of 4-chlorophenyl 1-methylpiperidin-4-yl methanone 1.19 g (5 mmol) in 30 ml methanol was added in small portions sodium borohydride 0.378 g (10 mmol). The reaction mixture was stirred at room temperature for two hours, concentrated, added water and extracted with methylene chloride 2×50 ml. The combined organic solution was dried over sodium sulfate and concentrated to give 1.2 g of desired product in 98% yield.

reactant | 4-chlorophenyl 1-methylpiperidin-4-yl methanone | 5 mmol, 1.19 g | ClC1=CC=C(C=C1)C(=O)C1CCN(CC1)C | C13H16ClNO
reactant | sodium borohydride | 10 mmol, 0.378 g | [BH4-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | (4-Chlorophenyl)(1-methylpiperidine-4-yl)methanol | 1.2 g, 98% yield | ClC1=CC=C(C=C1)C(O)C1CCN(CC1)C | C13H18ClNO
